US04174320
0.36 g. Oxalic acid and 1.0 g. 1,3,5-tri-(tert.-butyl)-hexahydro-1,3,5-triazine are added to a solution of 2.8 g. rifamycin S in 10 ml. dimethylformamide. The mixture is kept at 75° C. for about 1 hour, then 1.7 g. of acidified 1-amino-4-methylpiperazine are added directly, according to the process described in Example 7. The chloroform extract finally obtained is concentrated to a small volume and diluted with an appropriate mixture of ethyl acetate-acetone to give a high yield of pure rifampicin.

reactant | Oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | 1,3,5-tri-(tert.-butyl)-hexahydro-1,3,5-triazine | C(C)(C)(C)N1CN(CN(C1)C(C)(C)C)C(C)(C)C | C15H33N3
reactant | rifamycin S | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
reactant | 1-amino-4-methylpiperazine | NN1CCN(CC1)C | C5H13N3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | rifampicin | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=C2O)C(=C3O)/C=N/N5CCN(CC5)C)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C43H58N4O12
